US08633312B2
2-[2-(3-Chlorophenyl)-vinyl]-4-methoxybenzoic acid (7)
For the synthesis of the title compound, 45.6 g (0.186 mol) of 2-bromomethyl-4-methoxybenzoic acid, 48.8 g (0.186 mol) of triphenylphosphine, 26.1 g (0.186 mol) of 3-chlorobenzaldehyde and 84.0 g (0.435 mol) of NaOMe (28%) in 150 ml of methanol are reacted by method I. Purification is carried out by recrystallization from methanol at 4° C.

reactant | 2-bromomethyl-4-methoxybenzoic acid | 0.186 mol, 45.6 g | BrCC1=C(C(=O)O)C=CC(=C1)OC | C9H9BrO3
reactant | triphenylphosphine | 0.186 mol, 48.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chlorobenzaldehyde | 0.186 mol, 26.1 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | NaOMe | 0.435 mol, 84.0 g | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 2-[2-(3-Chlorophenyl)-vinyl]-4-methoxybenzoic acid | ClC=1C=C(C=CC1)C=CC1=C(C(=O)O)C=CC(=C1)OC | C16H13ClO3
